### PR TITLE
[Merged by Bors] - feat: IsROrC.toStarOrderedRing as a scoped instance

### PR DESCRIPTION
**Pull request by eric-wieser**
With `open scoped ComplexOrder`, we current have `StarOrderedRing Complex` (as well as some other order instances).
With this PR, that scope puts the same order on `K` where `IsROrC K`.

There is an ongoing discussion about whether opening the scope should be required, but there is no need to address that concern simultaneously with improving behavior when the scope is *already* open. There also seems to be fewer downstream instance resolution issues to resolve by leaving it in the scope.

---

- [x] depends on: #6457

[Open in Gitpod](https://gitpod.io/from-referrer/)

This is a more conservative version of #6210, which does not simultaneously remove the `ComplexOrder` scope.

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus.lean [hunk 1]
```diff
@@ -73,6 +73,16 @@ instance {R A : Type _} [CommRing R] [StarRing R] [NormedRing A] [Algebra R A] [
...
 
+section OhNoThisIsVeryCursed
+
+example : StarOrderedRing.toStarRing = Complex.instStarRingComplexToNonUnitalSemiringToNonUnitalCommSemiringToNonUnitalCommRingCommRing :=
+  by rfl
+
+example : StarOrderedRing.toStarRing = Complex.instStarRingComplexToNonUnitalSemiringToNonUnitalCommSemiringToNonUnitalCommRingCommRing :=
+  rfl
+
+end OhNoThisIsVeryCursed
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/ContinuousFunctionalCalculus.lean:84]: [Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/rfl.20vs.20by.20rfl.20in.20instance.20diamonds/near/382237276)

File: Mathlib/Data/IsROrC/Basic.lean [hunk 2]
```diff
@@ -822,12 +827,34 @@ noncomputable instance Real.isROrC : IsROrC ℝ where
...
   mul_im_I_ax z := by simp only [MulZeroClass.mul_zero, AddMonoidHom.zero_apply]
+  le_iff_re_im := (and_iff_left rfl).symm
 #align real.is_R_or_C Real.isROrC
 
 end Instances
 
 namespace IsROrC
 
+open scoped ComplexOrder in
+/-- Note this is only an instance with `open scoped ComplexOrder`. -/
```
Comment (j-loreaux) [inline Mathlib/Data/IsROrC/Basic.lean:838]: I think it would be nice to keep this portion of the docstring from the `ℂ` instance:
```suggestion
/-- With `z ≤ w` iff `w - z` is real and nonnegative, `IsROrC K` is a star ordered ring.
(That is, a star ring in which the nonnegative elements are those of the form `star z * z`.)

Note this is only an instance with `open scoped ComplexOrder`. -/
```

**Review by j-loreaux — COMMENTED** [review]
I'm content with this while we decide whether we want a globally available partial order on `ℂ`.

However, please add a docstring to the `StarOrderedRing ℝ` instance in `Mathlib.Data.Real.Sqrt` saying that it exists separate from the `IsROrC` instance because that one is blocked behind the `ComplexOrder` scope and we want it to be availble globally.

**Comment by j-loreaux** [comment]
bors d+

**Comment by j-loreaux** [comment]
This still LGTM after the changes. Feel free to merge.

**Comment by eric-wieser** [comment]
bors merge

I'm pretty confident the instance line won't make any difference
